US05340828
The method of Gong and Lynn (J. Org. Chem. 55, 4763 (1990)) was used to convert L-glutamic acid to 3(S)-amino-4-hydroxy-pentanoic acid. The crude product of this reaction was treated with di-t-butyl dicarbonate to obtain 3(S)-t-butoxycarbonylamino-4-hydroxy-pentanoic acid, which was converted to the title compound by reaction with EDC. The compound was purified by column chromatography on silica gel. 1H NMR (CDCl3) δ 5.35 (1H, br s), 4.40 (m, 1H), 4.35 (2H, t, J=6 Hz), 2.60 (1H, m), 1.61 (1H, m), 1.47 (9H, s).

reactant | L-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | 3(S)-amino-4-hydroxy-pentanoic acid | N[C@@H](CC(=O)O)C(C)O | C5H11NO3
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 3(S)-t-butoxycarbonylamino-4-hydroxy-pentanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)C(C)O | C10H19NO5
